US06930120B2
3-(4-Hydroxy-phenyl)-2-methyl-2-(quinolin-6-yloxy)-propionic acid ethyl ester
A solution of 3-(4-Benzyloxy-phenyl)-2-methyl-2-(quinolin-6-yloxy)-propionic acid ethyl ester (2.65 g, 6.0 mmol) in 100 mL of EtOH with 5% Pd/C (530 mg, 20 w %) was allowed to stand under 1 atm H2 for 6 h. Catalyst was filtered off and organic solvent was removed under vacuum. Residue was then dissolved in 200 mL of toluene. 530 mg of 10% Pd/C was added. The mixture was heated to reflux under air for overnight. Reaction was cooled to r.t. and catalyst was filtered off. Organic solvent was removed under vacuum and crude material was clean for next step without further purification. 1H NMR (400 MHz, CDCl3) δδ 8.77 (dd, 1H, J=4.0, 1.4 Hz), 8.04 (d, 1H, J=7.6 Hz), 8.02 (d, 1H, J=9.6 Hz), 7.38 (dd, 1H, J=8.4, 4.4 Hz), 7.32 (dd, 1H, J=9.2, 2.8 Hz), 7.09 (d, 2H, J=8.8 Hz), 7.03 (d, 1H, J=2.8 Hz), 6.83 (d, 2H, J=8.8 Hz), 4.22 (q, 2H, J=7.1 Hz), 3.35, 3.13 (ABq, 2H, J=13.6 Hz), 1.52 (s, 3H), 1.19 (t, 3H, J=7.1 Hz). MS (ES+) m/z mass calcd for C21H22NO4 (m+1) 352, found 352.

reactant | 3-(4-Benzyloxy-phenyl)-2-methyl-2-(quinolin-6-yloxy)-propionic acid ethyl ester | 6.0 mmol, 2.65 g | C(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(OC=1C=C2C=CC=NC2=CC1)C)=O | C28H27NO4
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 530 mg | [Pd] | Pd
product | 3-(4-Hydroxy-phenyl)-2-methyl-2-(quinolin-6-yloxy)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC=1C=C2C=CC=NC2=CC1)C)=O | C21H21NO4
